US06093744
N-Chlorosulfonyl isocyanate (3.43 mL, 39.4 mmol) was added to a warm solution of 4-(tert-butyl-dimethyl-silanyloxy)-2,6-diisopropylphenol (11.59 g, 37.6 mmol) in 400 mL toluene. The resulting solution was heated to reflux for 6 hours and then cooled to room temperature and stirred overnight. The reaction was concentrated in vacuo, and the residue was quenched with ice water and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give an orange oil. Chromatography on silica gel gave 6.06 g of 4-(tert-butyl-dimethyl-silanyloxy)-2,6-diisopropylphenyl sulfamate as an orange oil.

reactant | N-Chlorosulfonyl isocyanate | 39.4 mmol, 3.43 mL | C(=NS(=O)(=O)Cl)=O | CClNO3S
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-2,6-diisopropylphenol | 37.6 mmol, 11.59 g | C(C)(C)(C)[Si](OC1=CC(=C(C(=C1)C(C)C)O)C(C)C)(C)C | C18H32O2Si
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(tert-butyl-dimethyl-silanyloxy)-2,6-diisopropylphenyl sulfamate | 6.06 g | S(N)(OC1=C(C=C(C=C1C(C)C)O[Si](C)(C)C(C)(C)C)C(C)C)(=O)=O | C18H33NO4SSi
